US08258130B2
A mixture of N-(2-bromo-6-methoxy-pyridin-3-yl)-2,2,2-trifluoro-acetamide (5.52 g, 18.5 mmol), allyl bromide (3.57 g, 27.7 mmol) and sodium carbonate (5.1 g, 11 mmol) in CH3CN (60 mL) is stirred at 80° C. for 3 h. The mixture is filtered and the filtrate is concentrated in vacuo. The residue is purified by silica gel column chromatography eluting with 0-60% DCM in heptane to afford N-allyl-N-(2-bromo-6-methoxy-pyridin-3-yl)-2,2,2-trifluoro-acetamide (5.55 g) as an oil. 1H NMR (300 MHz, CDCl3): δ 3.66 (q, H), 4.00 (s, H), 5.95 (q, H), 5.08-5.30 (q, 2H), 5.75-5.94 (m, H), 6.74 (d, H), 7.38 (d, H).

reactant | N-(2-bromo-6-methoxy-pyridin-3-yl)-2,2,2-trifluoro-acetamide | 18.5 mmol, 5.52 g | BrC1=NC(=CC=C1NC(C(F)(F)F)=O)OC | C8H6BrF3N2O2
reactant | allyl bromide | 27.7 mmol, 3.57 g | C(C=C)Br | C3H5Br
reactant | sodium carbonate | 11 mmol, 5.1 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | CH3CN | 60 mL | CC#N | C2H3N
product | N-allyl-N-(2-bromo-6-methoxy-pyridin-3-yl)-2,2,2-trifluoro-acetamide | 5.55 g | C(C=C)N(C(C(F)(F)F)=O)C=1C(=NC(=CC1)OC)Br | C11H10BrF3N2O2
